US07166617B2
a) 2-Chloro-2′,4′-difluoroacetophenone oxime
2-Chloro-2′,4′-difluoroacetophenone (3.09 g, 16.2 mmol) was dissolved in ethanol (30 ml). The solution was added under ice-cooling successively with hydroxylamine hydrochloride (1.23 g, 17.7 mmol) and sodium acetate (1.45 g, 17.7 mmol), and the mixture was allowed to warm to room temperature and stirred for 20 hours. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and washed with an aqueous sodium bicarbonate solution and then with saturated brine, and dried over magnesium sulfate. Insoluble solids were removed by filtration, and the solvent was evaporated under reduced pressure. The residue was suspended in hexane and dried to obtain the title compound as colorless solid (2.29 g, yield: 69%).

reactant | 2-Chloro-2′,4′-difluoroacetophenone | 16.2 mmol, 3.09 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | hydroxylamine hydrochloride | 17.7 mmol, 1.23 g | Cl.NO
reactant | sodium acetate | 17.7 mmol, 1.45 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Chloro-2′,4′-difluoroacetophenone oxime | 2.29 g, yield: 69% | ClCC(C1=C(C=C(C=C1)F)F)=NO | C8H6ClF2NO
